US09422271B2
Under nitrogen atmosphere, a mixture of 2,4-dichloro-5-iodopyrimidine (2.0 g, 7.3 mmol, 1.0 eq), Pd(PPh3)2Cl2 (256 mg, 0.37 mmol, 0.05 eq), CuI (139 mg, 0.73 mmol, 0.1 eq) Et3N (2.2 g, 21.9 mmol, 3.0 eq) and ethynyltrimethylsilane (1.4 g, 14.6 mmol, 1.2 eq) in THF (20 ml) was stirred at 35° C. for 4 h. The mixture was filtered and concentrated. The residue was purified by silica gel column chromatography (PE/EtOAc=200:1) to give compound 2,4-dichloro-5-((trimethylsilyl)ethynyl)pyrimidine (1.0 g, 56%).

reactant | 2,4-dichloro-5-iodopyrimidine | 7.3 mmol, 2.0 g, 1.0 eq | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | ethynyltrimethylsilane | 14.6 mmol, 1.4 g, 1.2 eq | C(#C)[Si](C)(C)C | C5H10Si
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)2Cl2 | 0.37 mmol, 256 mg, 0.05 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.73 mmol, 139 mg, 0.1 eq | [Cu]I
product | 2,4-dichloro-5-((trimethylsilyl)ethynyl)pyrimidine | 1.0 g, 56% | ClC1=NC=C(C(=N1)Cl)C#C[Si](C)(C)C | C9H10Cl2N2Si
